US04486608
n-Butanol and Cl2 were added concurrently to a 100 ml, four necked, round bottomed flask containing ~10 g of DMF/HCl catalyst and 25 ml of 1,1,2,2-tetrachloroethane. The temperature was maintained between 50° and 55° C. by controlling the rates of the addition. Upon completion of the addition, the reaction mixture was shown to contain mainly the product 2,2-dichlorobutyraldehyde by GC and NMR analysis. Similar results were obtained with isobutanol and 3-phenylpropanol. Analysis was in agreement with authentic products by GC, IR and NMR.

reactant | n-Butanol | C(CCC)O | C4H10O
reactant | Cl2 | ClCl | Cl2
reactant | 1,1,2,2-tetrachloroethane | 25 ml | ClC(C(Cl)Cl)Cl | C2H2Cl4
reactant | 2,2-dichlorobutyraldehyde | ClC(C=O)(CC)Cl | C4H6Cl2O
catalyst | DMF HCl | ~10 g | CN(C)C=O.Cl
solvent | isobutanol | C(C(C)C)O | C4H10O
product | 3-phenylpropanol | C1(=CC=CC=C1)CCCO | C9H12O
